US05728835
N-{2-[4-{4-Fluorobenzoyl)piperidino]ethyl}-4-(N-hydroxyimino)-N-(2-methoxyphenyl)benzenesulfonamide hydrochloride
N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-(N-hydroxyimino)-N-(2-methoxyphenyl)benzenesulfonamide (65 mg, 0.12 mmol) was dissolved in methylene chloride (2 ml) to which was subsequently added saturated hydrogen chloride/ether solution (1 ml). After 5 minutes of stirring, the solvent was removed by evaporation, and the resulting residue was solidified in ether (5 ml) and collected by filtration to obtain 69 mg (99.8%) of the title compound in a colorless amorphous powder form.

reactant | N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-4-(N-hydroxyimino)-N-(2-methoxyphenyl)benzenesulfonamide | 0.12 mmol, 65 mg | FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CCC(C=C2)=NO)C2=C(C=CC=C2)OC)C=C1 | C27H30FN3O5S
reactant | hydrogen chloride ether | 1 ml | Cl.CCOCC
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-{2-[4-{4-Fluorobenzoyl)piperidino]ethyl}-4-(N-hydroxyimino)-N-(2-methoxyphenyl)benzenesulfonamide hydrochloride | 69 mg, 99.8% | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCN(S(=O)(=O)C2=CCC(C=C2)=NO)C2=C(C=CC=C2)OC)C=C1 | InChI=1S/C27H30FN3O5S.ClH/c1-36-26-5-3-2-4-25(26)31(37(34,35)24-12-10-23(29-33)11-13-24)19-18-30-16-14-21(15-17-30)27(32)20-6-8-22(28)9-7-20;/h2-10,12-13,21,33H,11,14-19H2,1H3;1H
